US07018988B2
(2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-4-(chloromethylene)-N-(6-quinolinyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(chloromethylene)-2-pyrrolidinecarboxylic acid, [1,1′-biphenyl]-4-carbo-nyl chloride, and 6-quinolinamine the title compound was obtained in 73% purity by LC/MS. MS(ESI+): m/z=468.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(chloromethylene)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=CCl)C(=O)O | C11H16ClNO4
reactant | [1,1′-biphenyl]-4-carbo-nyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | 6-quinolinamine | N1=CC=CC2=CC(=CC=C12)N | C9H8N2
product | (2S,4EZ)-1-([1,1′-biphenyl]-4-ylcarbonyl)-4-(chloromethylene)-N-(6-quinolinyl)-2-pyrrolidinecarboxamide | C1(=CC=C(C=C1)C(=O)N1[C@@H](CC(C1)=CCl)C(=O)NC=1C=C2C=CC=NC2=CC1)C1=CC=CC=C1 | C28H22ClN3O2
